US06841652B2
Preparation of [2,5-bis(2-trifluoromethyl-4-aminophenoxy)phenyl]diphenylphosphine oxide (4,4′-TFAPPO)
Into a 250 mL Parr hydrogenation flask was charged [2,5-bis(2-trifluoromethyl-4-nitrophenoxy)phenyl]diphenylphosphine oxide (2.55 g, 0.0037 mol), ethanol (25 mL), and 10% Pd/C (0.27 g). The mixture was degassed prior to the introduction of hydrogen gas. The mixture was agitated under a hydrogen atmosphere for ˜24 hours at room temperature. After degassing the solution, the Pd/C was removed by filtration and the solution added to stirred water to afford an off white solid. The crude solid was collected via filtration, washed with water, and dried at room temperature to afford 1.23 g (53% crude yield). The solid exhibited no melting peaks as determined by DSC at a heating rate of 10° C./min.

reactant | [2,5-bis(2-trifluoromethyl-4-nitrophenoxy)phenyl]diphenylphosphine oxide | 0.0037 mol, 2.55 g | FC(C1=C(OC2=C(C=C(C=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])C(F)(F)F)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C=CC(=C1)[N+](=O)[O-])(F)F | C32H19F6N2O7P
catalyst | Pd/C | 0.27 g | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | [2,5-bis(2-trifluoromethyl-4-aminophenoxy)phenyl]diphenylphosphine oxide | FC(C1=C(OC2=C(C=C(C=C2)OC2=C(C=C(C=C2)N)C(F)(F)F)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C=CC(=C1)N)(F)F | C32H23F6N2O3P
